US04927565
960 mg of (4S,5RS)-3-benzyloxycarbonyl-4-cyclohexylmethyl-5-ethenyl-2,2-dimethyloxazolidine was dissolved in 7 ml of dioxane, and 5 ml of dioxane solution containing 35 mg of osmium tetraoxide was added thereto, and reacted for 15 minutes at room temperture in the absence of light. The reaction mixture was diluted with 2.5 ml of water, and 8 ml of a solution containing 1.15 g of sodium periodide was dropwise added over a period of 40 minutes. After the completion of the addition, the mixture was stirred for 1.5 hours at room temperature. Insolubles were filtered off, and the filtrate was diluted with 100 ml of diethyl ether. The diluted filtrate was washed sequentially with a 5% sodium sulfide solution, water and a saturated sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 992 mg of (4S,5RS)-3-benzyloxycarbonyl-4-cyclohexylmethyl-5-formyl-2,2-dimethyloxazolidine as a colorless oily substance.

reactant | (4S,5RS)-3-benzyloxycarbonyl-4-cyclohexylmethyl-5-ethenyl-2,2-dimethyloxazolidine | 960 mg | C(C1=CC=CC=C1)OC(=O)N1C(OC([C@@H]1CC1CCCCC1)C=C)(C)C | C22H31NO3
reactant | dioxane | 7 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 2.5 ml | O | H2O
catalyst | osmium tetraoxide | 35 mg | [Os](=O)(=O)(=O)=O
product | (4S,5RS)-3-benzyloxycarbonyl-4-cyclohexylmethyl-5-formyl-2,2-dimethyloxazolidine | 992 mg | C(C1=CC=CC=C1)OC(=O)N1C(OC([C@@H]1CC1CCCCC1)C=O)(C)C | C21H29NO4
